/home/antoine/circuits/pnp-hf/pnp-hf.oregano
*----------------------------------------------
*	GNUCAP - NETLIST
.options OUT=120 
*------------- Models -------------------------
.include /usr/share/oregano/models/PNP.model
*------------- Circuit Description-------------
C_C2 1 3 1u IC=0 
V_V1 5 0 dc 0.0 ac 1.0 sin(0.0 1.0 1.0 0 0) 
R_R5 5 2 1k 
C_C1 2 4 10u IC=0 
R_R4 4 0 1k 
R_R1 6 0 200 
R_R6 1 3 500 
R_R3 1 4 1k 
R_R2 3 7 20 
V_V2 1 0 dc 5 
Q_Q1 6 4 7 pnp 

*----------------------------------------------
*.print tran  v(6)
*.tran 0 0.005 5e-05
*.print op v(nodes)
*.op
*.end
